US06436981B1
5-methoxy-4-(2-{[2-Methoxyimino-1-methyl-2-(3-trifluoromethyl-phenyl)-ethylidene]-hydrazonomethyl}-phenyl)-2-methyl-2,4-dihydro-[1,2,4]triazol-3-one
A solution of 1.17 g of 2-(3-methoxy-1-methyl-5-oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzaldehyde and 1.43 g of 2-hydrazono-1-(3-trifluoromethyl-phenyl)-propan-1-one-O-methyl-oxime in 10 ml of methanol is held at reflux temperature for 4 hours. After cooling to 5° C., filtration takes place, and the filtrate is concentrated by evaporation on a rotary evaporator. The residue is chromatographed on silica gel using ethyl acetate/hexane (1:1). The title compound is thus obtained as a yellow crystal powder having a melting point of 157-161° C. in the form of an isomeric mixture in a ratio of ca. 2:1.

reactant | 2-(3-methoxy-1-methyl-5-oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzaldehyde | 1.17 g | COC1=NN(C(N1C1=C(C=O)C=CC=C1)=O)C | C11H11N3O3
reactant | 2-hydrazono-1-(3-trifluoromethyl-phenyl)-propan-1-one-O-methyl-oxime | 1.43 g | CON=C(C(C)=NN)C1=CC(=CC=C1)C(F)(F)F | C11H12F3N3O
solvent | methanol | 10 ml | CO | CH4O
product | 5-methoxy-4-(2-{[2-Methoxyimino-1-methyl-2-(3-trifluoromethyl-phenyl)-ethylidene]-hydrazonomethyl}-phenyl)-2-methyl-2,4-dihydro-[1,2,4]triazol-3-one | COC=1N(C(N(N1)C)=O)C1=C(C=CC=C1)C=NN=C(C(C1=CC(=CC=C1)C(F)(F)F)=NOC)C | C22H21F3N6O3
